US06683211B1
Formic acid (230 g, 5.0 mol) is added dropwise to acetic anhydride (383 g, 3.75 mol) at 0° C. This mixture is stirred for 2 hours at +55° C. and subsequently cooled again to 0° C. Tetrahydrofuran (500 ml) is added at this temperature followed by 4-(2-amino-ethyl)-2-methoxy-phenol hydrochloride (50 g, 0.25 mol). The resulting white suspension is stirred for 18 hours at +75° C., changing into a yellow solution. The reaction mixture is evaporated and the residue is submitted to flash-chromatography to yield N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-formamide. 1H-NMR (300 MHz, CDCl3): 2.85(t, 2H, CH2CH2), 3.57(t, 2H, CH2CH2), 3.82(s, 3H, OCH3), 5.69(bs, 1H, NH), 6.67-7.09(m, 3H, CH arom.), 8.12(s, 1H, CHO).

reactant | Formic acid | 5.0 mol, 230 g | C(=O)O | CH2O2
reactant | acetic anhydride | 3.75 mol, 383 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(2-amino-ethyl)-2-methoxy-phenol hydrochloride | 0.25 mol, 50 g | Cl.NCCC1=CC(=C(C=C1)O)OC
solvent | Tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-formamide | OC1=C(C=C(C=C1)CCNC=O)OC | C10H13NO3
